.SUBCKT sg13g2_a21oi_2 VSS Y B1 A1 A2 VDD
M$1 \$3 A1 Y VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.3886p AD=0.2886p PS=3.3u
+ PD=2.26u
M$3 VSS A2 \$3 VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.387p AD=0.3886p PS=3.08u
+ PD=3.3u
M$5 VSS B1 Y VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.6704p AD=0.2886p PS=5.88u
+ PD=2.26u
M$7 VDD A1 \$7 VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.6752p AD=0.486p PS=5.21u
+ PD=3.43u
M$9 VDD A2 \$7 VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.486p AD=0.6752p PS=3.43u
+ PD=5.21u
M$11 Y B1 \$7 VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.5843p AD=0.5843p PS=4.44u
+ PD=4.44u
.ENDS sg13g2_a21oi_2
